US06958205B2
A reaction container was charged with 1,5-dibromopentane (43 g, 186.6 mmol), sodium carbonate (30 g, 280 mmol) and 100 ml of methanol which were weighed and the mixture was stirred at ambient temperature. Then, p-toluidine (10 g, 93.3 mmol) was dissolved in methanol (50 ml) and the solution was added dropwise to the reaction solution. The reaction solution was heated to 55° C. and stirred for 5 hours. The reaction solution was filtered and the resulting filtrate was concentrated under a reduced pressure. The resulting oily mixture was dissolved in ethyl acetate, which was washed with aqueous saturated sodium bicarbonate by using a separating funnel and extracted with 3% hydrochloric acid. Sodium bicarbonate was added to the water phase with stirring the water phase to neutralize it and then the water phase was extracted with ethyl acetate three times. The resulting ethyl acetate solutions were combined and the combined solution was dried using magnesium sulfate and filtered and the filtrate was concentrated under a reduced pressure and distilled under a reduced pressure to obtain 1-(4-methylphenyl)piperidine (8.2 g, yield: 50.3%).

reactant | 1,5-dibromopentane | 186.6 mmol, 43 g | BrCCCCCBr | C5H10Br2
reactant | sodium carbonate | 280 mmol, 30 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | p-toluidine | 93.3 mmol, 10 g | NC1=CC=C(C=C1)C | C7H9N
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 1-(4-methylphenyl)piperidine | 8.2 g, yield: 50.3% | CC1=CC=C(C=C1)N1CCCCC1 | C12H17N
